US06528525B1
2-Butyl-3-[4-[2-(4′-carboxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-210 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(4′-methoxycarbonylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (243 mg), which is the product of Reference example 12, was reacted with aqueous sodium hydroxide solution (1N, 1.83 ml) and the reaction mixture was treated to give the title compound (163 mg) as a white powder.

reactant | ethyl 2-butyl-3-[4-[2-(4′-methoxycarbonylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 243 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C32H37NO6
reactant | sodium hydroxide | 1N, 1.83 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(4′-carboxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 163 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C29H31NO6
